US08580794B2
methyl 2-(1H-indol-5-yloxy)-4-fluorobenzoate
A mixture of 5-hydroxyindole (8.5 g), methyl 2,4-difluorobenzoate (7.05 g), and K3PO4 (9.32 g) in diglyme (40 mL) at 115° C. was stirred for 24 hours. The reaction was cooled, diluted with ether (600 mL), and washed twice with water, and brine, and concentrated. The crude product was chromatographed on silica gel with 2-50% ethyl acetate/hexanes.

reactant | 5-hydroxyindole | 8.5 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | methyl 2,4-difluorobenzoate | 7.05 g | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
reactant | K3PO4 | 9.32 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | diglyme | 40 mL | COCCOCCOC | C6H14O3
solvent | ether | 600 mL | CCOCC | C4H10O
product | methyl 2-(1H-indol-5-yloxy)-4-fluorobenzoate | N1C=CC2=CC(=CC=C12)OC1=C(C(=O)OC)C=CC(=C1)F | C16H12FNO3
